US06043248
A solution of n-butyllithium (11.02 ml, 17.63 mmol, 1.2 equiv., 1.6 M in hexanes) in 60 ml of tetrahydrofuran cooled at -78° C. is treated dropwise with diisopropylamine (1.93 g, 19.10 mmol, 1.3 equiv.) over a two minute period. After stirring for another 10 min, a solution of 4,6-di-(tert-butyldimethylsilyloxy)-2-(2-pyridylmethyl)thio-pyrimidine (6.80 g, 14.69 mmol) in 16 ml of tetrahydrofuran is added dropwise over a 10 min period. The reaction mixture is stirred for 30 min longer and treated dropwise with methyl iodide (2.29 g, 16.16 mmol, 1.1 equiv.) in 6 ml of tetrahydrofuran over a 3 min period. Stirring is facilitated by adding an additional 30 ml of tetrahydrofuran. One hour after the addition of the methyl iodide, the cooling bath is removed and the mixture allowed to warm to room temperature. The contents are then cast into ice water and extracted once with ethyl acetate. The organic layer washed with saturated brine, dried with anhydrous Na2SO4 and concentrated at reduced pressure. A methylene chloride solution of the crude product was treated with silica gel (36 g), concentrated to a free flowing powder and applied to the top of a 350 g silica gel column, packed and eluted with ethyl acetate-hexane (5:95), to obtain 2.23 g (32%) 4,6-di-(tert-butyldimethylsilyloxy)-2-(1-(2-pyridyl)ethyl)thio-pyrimidine.

reactant | n-butyllithium | 17.63 mmol, 1.6 M, 11.02 ml, 1.2 equiv. | C(CCC)[Li]
reactant | diisopropylamine | 19.10 mmol, 1.93 g, 1.3 equiv. | C(C)(C)NC(C)C | C6H15N
reactant | 4,6-di-(tert-butyldimethylsilyloxy)-2-(2-pyridylmethyl)thio-pyrimidine | 14.69 mmol, 6.80 g | [Si](C)(C)(C(C)(C)C)OC1=NC(=NC(=C1)O[Si](C)(C)C(C)(C)C)SCC1=NC=CC=C1 | C22H37N3O2SSi2
reactant | methyl iodide | 16.16 mmol, 2.29 g, 1.1 equiv. | CI | CH3I
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4,6-di-(tert-butyldimethylsilyloxy)-2-(1-(2-pyridyl)ethyl)thio-pyrimidine | 2.23 g, 32% | [Si](C)(C)(C(C)(C)C)OC1=NC(=NC(=C1)O[Si](C)(C)C(C)(C)C)SC(C)C1=NC=CC=C1 | C23H39N3O2SSi2
